US04463172
In 20 ml of 1/15M phosphoric acid buffer solution (pH 6.4) were dissolved 410 mg of 7-(2-thienylacetamido)-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylic acid and 84 mg of NaHCO3, and 139 mg of 1-methyl-5-mercaptotetrazole was then added to the solution. The reaction solution was stirred at 50° C. for 6 hours, while maintaining it at pH 6.4 by pouring 5% aqueous NaHCO3, and then added on a column of Amberlite XAD-II (produced by Rohm & Haas), followed by washing with water and eluting by the gradient method with 0 to 70% aqueous methanol. The eluted fractions were collected, concentrated under reduced pressure and freeze-dried, thus yielding 148 mg (30%) of sodium 7-(2-thienylacetamido)-2β-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate.

reactant | 7-(2-thienylacetamido)-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylic acid | 410 mg | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C([C@@H](S2)C)COC(C)=O)C(=O)O)C1=O | C17H18N2O6S2
reactant | NaHCO3 | 84 mg | C(=O)(O)[O-].[Na+]
reactant | 1-methyl-5-mercaptotetrazole | 139 mg | CN1N=NN=C1S | C2H4N4S
solvent | phosphoric acid | 15M, pH 6.4 | P(O)(O)(O)=O | H3O4P
product | sodium 7-(2-thienylacetamido)-2β-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate | 148 mg, 30% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C([C@@H](S2)C)CSC2=NN=NN2C)C(=O)[O-])C1=O.[Na+] | InChI=1S/C17H18N6O4S3.Na/c1-8-10(7-29-17-19-20-21-22(17)2)13(16(26)27)23-14(25)12(15(23)30-8)18-11(24)6-9-4-3-5-28-9;/h3-5,8,12,15H,6-7H2,1-2H3,(H,18,24)(H,26,27);/q;+1/p-1/t8-,12?,15+;/m0./s1
